US06114334
A mixture of 1-(2-methoxyphenyl)piperazine (2.16 g), 37-40% aqueous formaldehyde solution (0.8 ml) and industrial methylated spirit (27 ml) was stirred at ambient temperature under nitrogen for 18 hours, then a slurry of 3-amino-2-methyl-1-phenyl-3-pyrazolin-5-one (2.14 g) in industrial methylated spirit (54 ml) was added in one portion. The stirred mixture was heated under reflux for 24 hours, allowed to cool to ambient temperature, and the resulting solid was collected by filtration, washed with industrial methylated spirit, and dried in vacuo at 50° C. to give 3-amino-4-[4-(2-methoxyphenyl)piperazin-1-ylmethyl]-2-methyl-1-phenyl-3-pyrazolin-5-one monohydrate as an off-white solid (3.2 g), m.p. 133-136° C.

reactant | 1-(2-methoxyphenyl)piperazine | 2.16 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | formaldehyde | 0.8 ml | C=O | CH2O
reactant | 3-amino-2-methyl-1-phenyl-3-pyrazolin-5-one | 2.14 g | NC=1N(N(C(C1)=O)C1=CC=CC=C1)C | C10H11N3O
product | 3-amino-4-[4-(2-methoxyphenyl)piperazin-1-ylmethyl]-2-methyl-1-phenyl-3-pyrazolin-5-one monohydrate | 3.2 g | O.NC=1N(N(C(C1CN1CCN(CC1)C1=C(C=CC=C1)OC)=O)C1=CC=CC=C1)C | InChI=1S/C22H27N5O2.H2O/c1-24-21(23)18(22(28)27(24)17-8-4-3-5-9-17)16-25-12-14-26(15-13-25)19-10-6-7-11-20(19)29-2;/h3-11H,12-16,23H2,1-2H3;1H2
